US05455356
In the same apparatus as Example 1, was added 5.6 g of chloromethyltrichlorosilane (0.03 mol) and 50 ml of THF. Through the dropping funnel was firstly added 22 ml of 4-fluorophenylmagnesiumbromide (2.0 M in diethylether) to give chloromethyldichloro(4-fluorophenyl)silane.

reactant | chloromethyltrichlorosilane | 0.03 mol, 5.6 g | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | 4-fluorophenylmagnesiumbromide | 2.0 M, 22 ml | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | chloromethyldichloro(4-fluorophenyl)silane | ClC[Si](C1=CC=C(C=C1)F)(Cl)Cl | C7H6Cl3FSi
